US07741321B2
Step a: 4-(4,4′-Dimethoxybenzhydryl)-thiophenyl boronic acid
4,4′-Dimethoxybenzhydrol (2.7 g, 11 mmol) and 4-mercaptophenylboronic acid (1.54 g, 10 mmol) were dissolved in 20 mL AcOH and heated at 60° C. for 1 h. Solvent was evaporated and the residue was dried under high vacuum. This material was used without further purification.

reactant | 4,4′-Dimethoxybenzhydrol | 11 mmol, 2.7 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)O)C=C1 | C15H16O3
reactant | 4-mercaptophenylboronic acid | 10 mmol, 1.54 g | SC1=CC=C(C=C1)B(O)O | C6H7BO2S
solvent | AcOH | 20 mL | CC(=O)O | C2H4O2
product | 4-(4,4′-Dimethoxybenzhydryl)-thiophenyl boronic acid | COC1=CC=C(C(C2=CC=C(C=C2)OC)C=2C=C(SC2)B(O)O)C=C1 | C19H19BO4S
